US05366972
d) N-(2-Bromo-6-methoxy-3-pyridinyl)-2-ethylamino-N-methyl-3-pyridinecarboxamide
Ethylamine (0.7 g) was added to a solution of N-(2-bromo-6-methoxy-3-pyridinyl)-2-chloro-N-methyl-3-pyridinecarboxamide (1.9 g) in xylene (5 ml), and the resulting mixture was sealed in a pressure bottle and heated at 150° C. for 4 hours. The solution was diluted with ethyl acetate, washed with water, dried (anhydrous magnesium sulfate), concentrated, and purified on a silica gel column (ethyl acetate/hexane, 1:4) to give 1.5 g of the title compound, suitable for use in the next reaction.

reactant | Ethylamine | 0.7 g | C(C)N | C2H7N
reactant | N-(2-bromo-6-methoxy-3-pyridinyl)-2-chloro-N-methyl-3-pyridinecarboxamide | 1.9 g | BrC1=NC(=CC=C1N(C(=O)C=1C(=NC=CC1)Cl)C)OC | C13H11BrClN3O2
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-Bromo-6-methoxy-3-pyridinyl)-2-ethylamino-N-methyl-3-pyridinecarboxamide | 1.5 g | BrC1=NC(=CC=C1N(C(=O)C=1C(=NC=CC1)NCC)C)OC | C15H17BrN4O2
